US07910751B2
<Step 1> Synthesis of 4-trifluoromethyl-tert-butylphenyl carbamate
First, di-tert-butyl dicarbamate (30 mL) was added to a tetrahydrofuran (50 mL) solution of 4-trifluoromethylaniline (10 mL). The reaction mixture was then refluxed for 10 hours. The solvent was distilled off under reduced pressure. Water was added to the residue to solidify the resulting product. The product was then washed with hexane. The title compound (18.7 g) was obtained as colorless crystals.

reactant | di-tert-butyl dicarbamate | 30 mL | C(N)(OC(C)(C)C)=O.C(N)(OC(C)(C)C)=O | 2C5H11NO2
reactant | 4-trifluoromethylaniline | 10 mL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-trifluoromethyl-tert-butylphenyl carbamate | 18.7 g | C(N)(OC1=C(C=C(C=C1)C(F)(F)F)C(C)(C)C)=O | C12H14F3NO2
